US03943124
3α-Hydroxy-17β-methoxycarbonyl-5α-androstan-11-one
A solution of 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid (350 mg.) in methanol (20 ml.) and ether (10 ml.) was treated with a dry ethereal solution of diazomethane. After 10 minutes, any unreacted diazomethane was destroyed by the addition of a drop of glacial acetic acid and the mixture was evaporated to small bulk. This was taken up in ether and washed with dilute sodium hydrogen carbonate solution, with water, dried and evaporated to a foam. The product was crystallised from acetone and petrol to give title compound (28/ mg.) as off white needles; m.p. 162 163°; [α]D + 77°.

reactant | 3α-hydroxy-11-oxo-5α-androstane-17β-carboxylic acid | 350 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)O | C20H30O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 20 ml | CO | CH4O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 3α-Hydroxy-17β-methoxycarbonyl-5α-androstan-11-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)C(=O)OC | C21H32O4
